US04606860
0.3 Gram (0.005 mole) of allylamine was added to a mixture of 1.2 g (0.005 mole) of 3-carboxymethyl-5-ethoxymethylidenerhodanine and 10 ml of ethanol, and the resulting mixture was subjected to reaction at a temperature of 50° to 60° C. for 1 hour. The reaction mixture was cooled and the formed precipitate was separated by filtration and recrystalized from a mixture of methanol and ether (7/3 by volume) to give 0.68 g of 3-carboxymethyl-5-allylaminomethylidenerhodanine in the form of yellow crystal (yield: 52.6%).

reactant | allylamine | 0.005 mole | C(C=C)N | C3H7N
reactant | 3-carboxymethyl-5-ethoxymethylidenerhodanine | 0.005 mole, 1.2 g | C(=O)(O)CN1C(SC(C1=O)=COCC)=S | C8H9NO4S2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-carboxymethyl-5-allylaminomethylidenerhodanine | 0.68 g | C(=O)(O)CN1C(SC(C1=O)=CNCC=C)=S | C9H10N2O3S2
